US06046201
Potassium 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate
To a solution of 69.81 g of ethyl 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate in 280 ml of methanol were added 37 g of potassium hydroxide and a small volume of water and the mixture was heated under reflux for one hour. To the reaction solution were added methanol and isopropyl alcohol, the crystal thus precipitated out was recovered by filtration and then dried under reduced pressure to afford 70.65 g of the title compound as a colorless crystal.

reactant | ethyl 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate | 69.81 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)OCC | C14H21N3O2
reactant | potassium hydroxide | 37 g | [OH-].[K+]
reactant | water | O | H2O
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | methanol | 280 ml | CO | CH4O
product | Potassium 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate | 70.65 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[K+] | InChI=1S/C12H17N3O2.K/c1-2-14-5-7-15(8-6-14)11-4-3-10(9-13-11)12(16)17;/h3-4,9H,2,5-8H2,1H3,(H,16,17);/q;+1/p-1
